US04013596
Preparation of N-5-tetrazolyl chloroacetamide:
To a stirred solution of anhydrous 5-aminotetrazole, 85.0 g., 1.0 mole, in 400 ml of dimethylformamide, chloroacetyl chloride, 113 g., 1.0 mole, was added from a dropping funnel during about 25 minutes. The temperature of the mixture rose to a maximum of 85° C and was kept at approximately 80° C for 1 hr. longer by heating the mixture. The mixture was evaporated to approximately one-half the volume, poured into 1500 ml of water and cooled several hrs. in a refrigerator. The precipitated solid was collected on a filter and washed with cold water. The solid was dried at 50°-60° C to give 100.2 g., m.p. 218° C dec., 62% crude yield. Treatment of the solid with decolorizing carbon and crystallization from alcohol gave a white, fluffy, crystalline solid, m.p. 227°-228° C dec.

reactant | 5-aminotetrazole | NC1=NN=NN1 | CH3N5
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | N-5-tetrazolyl chloroacetamide | N1N=NN=C1NC(CCl)=O | C3H4ClN5O
